US04943585
94 g of 1-hydroxymethyl-4,5-dichloroimidazole is dissolved in 550 ml of carbon tetrachloride. 1 ml of dimethylformamide is added, and 100.5 g of thionyl chloride is dripped in while stirring. The mixture is refluxed until no more gas evolves, after which the solvent is removed under reduced pressure and 750 ml of methylene chloride and 250 ml of water are added to the residue. While the mixture is stirred thoroughly, its pH is brought to 7.5 with 5% strength aqueous sodium hydroxide solution. The organic phase is then separated, washed with water and dried over sodium sulfate. The residue remaining after removal of the solvent is distilled at 92° to 95° C./0.1 mbar. There is obtained 80.5 g (77%) of 1-chloromethyl-4,5-dichloroimidazole; m.p.: 40°-41° C.

reactant | 1-hydroxymethyl-4,5-dichloroimidazole | 94 g | OCN1C=NC(=C1Cl)Cl | C4H4Cl2N2O
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 100.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 550 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-chloromethyl-4,5-dichloroimidazole | 80.5 g, 77% | ClCN1C=NC(=C1Cl)Cl | C4H3Cl3N2
